US04550118
Cysteamine.hydrochloride (0.4 g) was caused to react with sodium ethoxide in ethanol to yield a sodium salt. Then, 5-bromomethyl-2-guanidinobenzothiazole.hydrobromide (0.63 g) was added to the sodium salt at an internal temperature of 0° C. After agitating the mixture over one night at room temperature, the solvent was removed, and the residue was made acidic with addition of dilute hydrochloric acid. The crystalline precipitate was collected to obtain 5-[(2-aminoethyl)thiomethyl]-2-guanidinobenzothiazole.2hydrochloride (0.5 g).

reactant | 5-bromomethyl-2-guanidinobenzothiazole.hydrobromide | 0.63 g | Br.BrCC=1C=CC2=C(N=C(S2)NC(=N)N)C1
reactant | sodium | [Na] | Na
product | 5-[(2-aminoethyl)thiomethyl]-2-guanidinobenzothiazole | NCCSCC=1C=CC2=C(N=C(S2)NC(=N)N)C1 | C11H15N5S2
